US07652049B2
A glass reaction tube was charged with (1R,2S)-1-[3,5-bis(trifluoromethyl)phenyl]-N2-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}propane-1,2-diamine (15.9 mg, 0.0269 mmol), sulfamide (4 mg, 0.0403 mmol), and pyridine (600 μL). The tube was flushed with N2, sealed, and heated at 120° C. for 2 h. The reaction was then cooled to room temperature, diluted with EtOAc (40 mL) and washed with H2O, 1N HCl, and brine (10 mL each). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography with 25% EtOAc/hexanes afforded (3S,4R)-4-[3,5-bis(trifluoromethyl)phenyl]-2-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-3-methyl-1,2,5-thiadiazolidine 1,1-dioxide. Rf=0.27 (25% EtOAc/hexanes). LCMS=655.2 (M+1)+. 1H NMR (C6D6, 500 MHz; atropisomers present) δ 6.51-8.19 (m, 9H), 3.64-4.53 (m, 4H), 3.00-3.18 (m, 4H), 2.73 (m, 1H), 1.13-1.20 (m, 6H), −0.03-0.09 (m, 3H).

reactant | (1R,2S)-1-[3,5-bis(trifluoromethyl)phenyl]-N2-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}propane-1,2-diamine | 0.0269 mmol, 15.9 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@H]([C@H](C)NCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)N)(F)F | C29H29F9N2O
reactant | sulfamide | 0.0403 mmol, 4 mg | S(=O)(=O)(N)N | H4N2O2S
solvent | pyridine | 600 μL | N1=CC=CC=C1 | C5H5N
product | (3S,4R)-4-[3,5-bis(trifluoromethyl)phenyl]-2-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-3-methyl-1,2,5-thiadiazolidine 1,1-dioxide | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(S(N1)(=O)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)C)(F)F | C29H27F9N2O3S
